US07579473B2
To a mixture of cyclopropane-1,1-dicarboxylic acid [4-(7-benzyloxy-6-methoxy-quinazolin-4-yloxy)-3-fluoro-phenyl]-amide (4-fluoro-phenyl)-amide (7.5 g, 12.6 mmol), acetic acid (few drops), dichloromethane (50 ml) and methanol (100 ml) was added 10% Pd/C (700 mg). The mixture was agitated in hydrogen gas (40 psi) until the reaction was complete (ca. 4 hr). The solution was filtered through celite and concentrated to give a crude product as a solid. The crude product was triturated with ether, and filtered. The filter cake was dried in vacuo to yield cyclopropane-1,1-dicarboxylic acid [3-fluoro-4-(7-hydroxy-6-methoxy-quinazolin-4-yloxy)-phenyl]-amide (4-fluoro-phenyl)-amide (6.1 g, 95% yield). 1H NMR (dmso-d6): 10.86 (1H, br. s), 10.34 (1H, br. s), 10.04 (1H, br. s), 8.46 (1H, s), 7.84-7.80 (1H, dd), 7.66-7.62 (2H, m), 7.55 (1H, s), 7.47-7.45 (1H, m), 7.41-7.37 (1H, m), 7.24 (1H, s), 7.18-7.13 (2H, t), 3.98 (3H, s), 1.46 (4H, s).

reactant | cyclopropane-1,1-dicarboxylic acid [4-(7-benzyloxy-6-methoxy-quinazolin-4-yloxy)-3-fluoro-phenyl]-amide (4-fluoro-phenyl)-amide | 12.6 mmol, 7.5 g | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1)F | C33H26F2N4O5
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
reactant | methanol | 100 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | Pd/C | 700 mg | [Pd] | Pd
product | cyclopropane-1,1-dicarboxylic acid [3-fluoro-4-(7-hydroxy-6-methoxy-quinazolin-4-yloxy)-phenyl]-amide (4-fluoro-phenyl)-amide | 6.1 g, 95% yield | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC(=C(C=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)F | C26H20F2N4O5
